US03944612
Preparation of 4-fluoro-3-nitroaniline
To a solution of 139 g. of p-fluoroaniline in 834 g. of H2SO4, 100%, a mixture of 81.3 g. of HNO3, 100% in 489 g. H2SO4, 100%, is slowly added at 8°-10°C. One hour after this addition, the mixture is poured on 800 g. of ice and the resulting solution made alkaline with 2300 ml. of conc. aqua ammonia. On cooling to approxiamtely 5°C., the orange crude product is filtered off, sharply sucked off, and stirred with 600 ml. of water and 120 ml. of conc. HCl at room temperature. The insoluble, dark-brown solid is filtered off, the filtrate made alkaline with 82 g. of solid sodium carbonate, and the solid filtered off and dried in vacuo at 60°-70°C or in the air.

reactant | p-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | ammonia | N | H3N
product | 4-fluoro-3-nitroaniline | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
